US07994316B2
Under a stream of argon, 3.5 ml of a pentane solution containing 5.2 mmol of tert-butyl lithium was slowly added to 15 ml of tetrahydrofuran cooled to −78° C., and 10 ml of tetrahydrofuran in which 0.61 g of 2-(4-bromophenyl)pyridine was dissolved was further added dropwise to this solution. After stirring at −78° C. for 30 minutes, 1.64 g of dichloro(tetramethylethylenediamine)zinc(II) was added thereto and stirred at −78° C. for 10 minutes and then at room temperature for 2 hours. A 1.00 g portion of 2-(4-bromophenyl)-4,6-bis(4-tert-butylphenyl)-1,3,5-triazine prepared in Reference Example 1 and 0.12 g of tetrakis(triphenylphosphine) palladium(0) were dissolved in 35 ml of tetrahydrofuran and added to this solution, followed by stirring under heating reflux for 13 hours. The reaction solution was concentrated under a reduced pressure and the thus obtained solid was recrystallized from dichloromethane-methanol. The thus obtained crude product was purified by a silica gel column chromatography (eluting solution hexane:dichloromethane=3:2 to 4:3) and then again recrystallized from dichloromethane-methanol to obtain a white solid of the intended 2,4-bis(4-tert-butylphenyl)-6-[4′-(2-pyridyl)biphenyl-4-yl]-1,3,5-triazine (1.00 g, yield 87%). Its melting point and glass transition temperature are shown in Table 4.

reactant | pentane | 3.5 ml | CCCCC | C5H12
reactant | tert-butyl lithium | 5.2 mmol | C(C)(C)(C)[Li]
reactant | 2-(4-bromophenyl)-4,6-bis(4-tert-butylphenyl)-1,3,5-triazine | BrC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C | C29H30BrN3
reactant | 2-(4-bromophenyl)pyridine | 0.61 g | BrC1=CC=C(C=C1)C1=NC=CC=C1 | C11H8BrN
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.12 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2,4-bis(4-tert-butylphenyl)-6-[4′-(2-pyridyl)biphenyl-4-yl]-1,3,5-triazine | 1.00 g, yield 87% | C(C)(C)(C)C1=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=NC=CC=C1 | C40H38N4
